US06906067B2
N,N-Diethyl-4-methyl-benzamide
Dimethyl amine (13.00 g, 177.87 mmol, 18.40 mL) and pyridine (38.37 g, 485.10 mmol, 39.23 mL) were dissolved in 500 mL of anhydrous DCM under argon and cooled to 0° C. p-Tolyl chloride (25.00 g, 161.70 mmol), dissolved in 75 mL of anhydrous DCM, was added to the solution slowly. On completion of addition the solution was slowly warmed to room temp and stirred for 12 h. The reaction mixture was poured into 1N HCl and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with saturated sodium bicarbonate, water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (4:1 hexane/ethyl acetate) Yield 25.36 g.

reactant | Dimethyl amine | 177.87 mmol, 18.40 mL, 13.00 g | CNC | C2H7N
reactant | pyridine | 485.10 mmol, 39.23 mL, 38.37 g | N1=CC=CC=C1 | C5H5N
reactant | p-Tolyl chloride | 161.70 mmol, 25.00 g | C1(=CC=C(C=C1)Cl)C | C7H7Cl
reactant | HCl | 1N | Cl | ClH
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | N,N-Diethyl-4-methyl-benzamide | C(C)N(C(C1=CC=C(C=C1)C)=O)CC | C12H17NO
